US08530388B2
To a solution of 5-bromo-2-trifluoromethoxybenzaldehyde (2.0 g, 7.43 mmol) in anhydrous dichloromethane (40 ml) at room temperature is added boron trifluoride etherate (1.13 ml, 8.92 mmol) then 1,2-bis(trimethylsiloxy)cyclobutene (2.86 ml, 11.2 mmol). The mixture is stirred at room temperature for 23 hours, followed by addition of distilled water (1.2 ml) and additional boron trifluoride etherate (14.1 ml, 112 mmol). After stirring for 24 hours at room temperature the reaction mixture is then quenched with saturated aqueous ammonium chloride solution (50 ml) and extracted with dichloromethane (2×50 ml). The crude product is extracted from the organic phase by washing with 0.5 M aqueous potassium carbonate solution (×3), then acidified to pH 1 with concentrated hydrochloric acid. Final extraction with dichloromethane (×3) is followed by washing with brine then drying over magnesium sulfate and filtration. Concentration in vacuo gives a crude product which is purified by preparative reverse phase HPLC to afford 2-(5-bromo-2-trifluoromethoxyphenyl)cyclopentane-1,3-dione.

reactant | 5-bromo-2-trifluoromethoxybenzaldehyde | 7.43 mmol, 2.0 g | BrC=1C=CC(=C(C=O)C1)OC(F)(F)F | C8H4BrF3O2
reactant | boron trifluoride etherate | 8.92 mmol, 1.13 ml | B(F)(F)F.CCOCC
reactant | 1,2-bis(trimethylsiloxy)cyclobutene | 11.2 mmol, 2.86 ml | C[Si](OC1=C(CC1)O[Si](C)(C)C)(C)C | C10H22O2Si2
reactant | water | 1.2 ml | O | H2O
reactant | boron trifluoride etherate | 112 mmol, 14.1 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(5-bromo-2-trifluoromethoxyphenyl)cyclopentane-1,3-dione | BrC=1C=CC(=C(C1)C1C(CCC1=O)=O)OC(F)(F)F | C12H8BrF3O3
